US05643878
b) 5(S)-(Boc-amino)-4(S)-hydroxy-6-phenyl-2(R)-(o-fluorophenylmethyl)-hexanoic acid
Analogously to Example 1i), 4.5 g (10.8 mmol) of 5(S)-[1(S)-(Boc-amino)-2-phenylethyl]-3(R)-(o-fluorophenylmethyl)-dihydrofuran-2-(3H)-one in 170 ml of dimethoxyethane are hydrolysed with 43.5 ml of 1M lithium hydroxide solution. The evaporation residue of the reaction mixture is poured onto a mixture of ice, 120 ml of sat. ammonium chloride solution and 240 ml of 10% citric acid solution, and extracted with 3 portions of methylene chloride. The organic phases are washed with water and brine, dried over Na2SO4 and concentrated by evaporation: tRet (I)=14.5 min.

reactant | 5(S)-[1(S)-(Boc-amino)-2-phenylethyl]-3(R)-(o-fluorophenylmethyl)-dihydrofuran-2-(3H)-one | 10.8 mmol, 4.5 g | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=CC=C1)[C@@H]1C[C@H](C(O1)=O)CC1=C(C=CC=C1)F | C24H28FNO4
reactant | lithium hydroxide | 1M, 43.5 ml | [OH-].[Li+]
reactant | ammonium chloride | 120 ml | [Cl-].[NH4+]
reactant | citric acid | 240 ml | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | dimethoxyethane | 170 ml | C(OC)COC | C4H10O2
product | 5(S)-(Boc-amino)-4(S)-hydroxy-6-phenyl-2(R)-(o-fluorophenylmethyl)-hexanoic acid | C(=O)(OC(C)(C)C)N[C@H]([C@H](C[C@H](C(=O)O)CC1=C(C=CC=C1)F)O)CC1=CC=CC=C1 | C24H30FNO5
